US03940419
A solution of 1-(3,4-dibromophthalimido)cyclohexanecarboxamide in acetic acid containing one equivalent of sodium acetate is reduced with hydrogen in the presence of palladium on carbon to give the product 1-(3-bromophthalimido) cyclohexanecarboxamide, m.p. 199°-200°C.

reactant | 1-(3,4-dibromophthalimido)cyclohexanecarboxamide | BrC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)N)=CC=C1Br | C15H14Br2N2O3
reactant | acetic acid | one equivalent | C(C)(=O)O | C2H4O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(3-bromophthalimido) cyclohexanecarboxamide | BrC1=C2C(C(=O)N(C2=O)C2(CCCCC2)C(=O)N)=CC=C1 | C15H15BrN2O3
